US07723286B2
a) Synthesis of 1-methyl-3-oxo-3-(2,6,6-trimethyl-2-cyclohexen-1-yl)propyl benzoate
To a solution of 3-hydroxy-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone (4.00 g, 92% pure, 17.5 mmol), NEt3 (3.2 ml, 22.85 mmol) and dimethylamino pyridine (DMAP) (400 mg) in CH2Cl2 (100 ml) was added benzoylchloride (2.43 ml, 20.94 mmol). The reaction medium was stirred for 65 h at room temperature. Then, the mixture was acidified with 5% aqueous HCl and extracted twice with ether and washed with water, saturated aqueous NaHCO3 and then with saturated aqueous NaCl. Finally, the organic phases were dried over Na2SO4, concentrated at 50-60°/0.03 mbar) and purified by flash-chromatography over SiO2 (cyclohexane/AcOEt=97:3). 4.25 g of product were thus obtained (yield: 73%).

reactant | 3-hydroxy-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone | 17.5 mmol, 4.00 g | OC(CC(=O)C1C(=CCCC1(C)C)C)C | C13H22O2
reactant | NEt3 | 22.85 mmol, 3.2 ml | CCN(CC)CC | C6H15N
reactant | dimethylamino pyridine | 400 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzoylchloride | 20.94 mmol, 2.43 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-oxo-3-(2,6,6-trimethyl-2-cyclohexen-1-yl)propyl benzoate | 4.25 g, yield: 73% | C(C1=CC=CC=C1)(=O)OC(CC(C1C(=CCCC1(C)C)C)=O)C | C20H26O3
